US08003649B2
A mixture of 1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-one and 2-bromobenzonitrile was allowed to react by the method of Example 315 to give 2-[4-hydroxy-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]benzonitrile in 24% yield.

reactant | 1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-one | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)=O)(F)F | C11H10F3N5O
reactant | 2-bromobenzonitrile | BrC1=C(C#N)C=CC=C1 | C7H4BrN
product | 2-[4-hydroxy-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]benzonitrile | 24% yield | OC1(CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)C2=C(C#N)C=CC=C2 | C18H15F3N6O
